US09260427B2
To a stirring suspension of 4-(thiazol-2-yl)benzaldehyde (349 mg, 1.84 mmol), tricyclohexylphosphine (27 mg, 0.07 mmol), pivalic acid (64.2 μl, 0.55 mmol), potassium carbonate (382 mg, 2.77 mmol) and palladium (II) acetate (8 mg, 0.04 mmol) in DMA (5.15 mL) under nitrogen was added a solution of 1-bromo-4-(heptyloxy)benzene (500 mg, 1.84 mmol) in DMA (1 mL). The reaction mixture was evacuated and purged with nitrogen 3 times then heated at 100° C. for 6 h. Once cooled, the reaction mixture was diluted with EA (40 mL), washed with water (3×40 mL) and brine (40 mL). The organic phase was dried over MgSO4, filtered and concentrated in vacuo to afford a brown-green solid. The crude product was purified by chromatography (0-50% EA in hexanes) to afford 270 mg (37%) of 4-(5-(4-(heptyloxy)phenyl)thiazol-2-yl)benzaldehyde as an iridescent yellow solid. LCMS-ESI (m/z) calculated for C23H25NO2S: 379.5. found 380.0 [M+H]+, tR=2.99 min. (Method 8).

reactant | 4-(thiazol-2-yl)benzaldehyde | 1.84 mmol, 349 mg | S1C(=NC=C1)C1=CC=C(C=O)C=C1 | C10H7NOS
reactant | tricyclohexylphosphine | 0.07 mmol, 27 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | pivalic acid | 0.55 mmol, 64.2 μl | C(C(C)(C)C)(=O)O | C5H10O2
reactant | potassium carbonate | 2.77 mmol, 382 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-4-(heptyloxy)benzene | 1.84 mmol, 500 mg | BrC1=CC=C(C=C1)OCCCCCCC | C13H19BrO
solvent | DMA | 5.15 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
catalyst | palladium (II) acetate | 0.04 mmol, 8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(5-(4-(heptyloxy)phenyl)thiazol-2-yl)benzaldehyde | 270 mg, 37% | C(CCCCCC)OC1=CC=C(C=C1)C1=CN=C(S1)C1=CC=C(C=O)C=C1 | C23H25NO2S
